US04794186
1.7 g of ethyl (Z)-2-(2-acetamidothiazol-4-yl)-2-[(2-pyrrolidon-3-yl)oxyimino]acetate are suspended in 17 ml of methanol, and 5 ml of 2N sodium hydroxide are added thereto. The mixture is refluxed for 30 minutes with heating. Then, the mixture is concentrated under reduced pressure to remove methanol. The residue is adjusted to pH 2 with diluted hydrochloric acid, and the aqueous mixture is extracted with a mixture of ethyl acetate and tetrahydrofuran (2:1). The extract is dried and concentrated under reduced pressure to dryness. The residue is crystallized with isopropanol, and the crystals are collected by filtration and then recrystallized from water. 0.8 g of (Z)-2-(2-acetamidothiazol-4-yl)-2-[(2-pyrrolidon-3-yl)oxyimino]acetic acid is obtained.

reactant | ethyl (Z)-2-(2-acetamidothiazol-4-yl)-2-[(2-pyrrolidon-3-yl)oxyimino]acetate | 1.7 g | C(C)(=O)NC=1SC=C(N1)/C(/C(=O)OCC)=N/OC1C(NCC1)=O | C13H16N4O5S
reactant | sodium hydroxide | 2N, 5 ml | [OH-].[Na+]
solvent | methanol | 17 ml | CO | CH4O
product | (Z)-2-(2-acetamidothiazol-4-yl)-2-[(2-pyrrolidon-3-yl)oxyimino]acetic acid | 0.8 g | C(C)(=O)NC=1SC=C(N1)/C(/C(=O)O)=N/OC1C(NCC1)=O | C11H12N4O5S
